US08487093B2
Step 6 2-Allyl 1-tert-butyl (2S,4R)-4-[(benzyloxy)amino]pyrrolidine-1,2-dicarboxylate
A solution of allyl (4R)-4-[(benzyloxy)amino]-L-prolinate (1.2 g, 4.34 mmol) in dichloromethane (29 mL) was added to di-tert-butyl dicarbonate (1.1 mL, 4.34 mmol) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum and the residue was chromatographed on silica gel eluted with hexane then with 4:1 hexane:ethyl acetate to afford the title compound as a clear gum.

reactant | allyl (4R)-4-[(benzyloxy)amino]-L-prolinate | 4.34 mmol, 1.2 g | C(C1=CC=CC=C1)ON[C@@H]1C[C@H](NC1)C(=O)OCC=C | C15H20N2O3
reactant | di-tert-butyl dicarbonate | 4.34 mmol, 1.1 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 29 mL | ClCCl | CH2Cl2
product | 2-Allyl 1-tert-butyl (2S,4R)-4-[(benzyloxy)amino]pyrrolidine-1,2-dicarboxylate | C(C1=CC=CC=C1)ON[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C20H28N2O5
